US06599902B2
To a suspension of sodium hydride (4 g of 60% dispersion, 2eq, washed with diethyl ether) in diethyl ether (200 mL), cooled in an ice bath with stirring was added slowly a solution of ethyl crotonate (6.2 mL, 50 mmol) and p-tosylmethyl isocyanide (9.7 g, 50 mmol) in 80 mL of DMSO and 160 mL diethyl ether. Upon complete addition of the solution, the reaction mixture was stirred at room temperature for 1 hr. The reaction was quenched with 400 mL water and extracted into diethyl ether (2×100 mL), dried (MgSO4) and concentrated to afford 6 g (78%) of 4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester as a brown oil which solidified upon standing.

reactant | sodium hydride | 4 g, 2eq | [H-].[Na+]
reactant | ethyl crotonate | 50 mmol, 6.2 mL | C(\C=C\C)(=O)OCC | C6H10O2
reactant | p-tosylmethyl isocyanide | 50 mmol, 9.7 g | CC1=CC=C(C=C1)S(=O)(=O)CN=C | C9H11NO2S
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 160 mL | C(C)OCC | C4H10O
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
product | 4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 6 g, 78% | C(C)OC(=O)C1=CNC=C1C | C8H11NO2
